US03962443
5,8-Dihydro-2-(1-piperazinyl)-8-vinyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid hydrochloride (compound 54)
To a mixture, containing 400 ml of absolute ethanol and 2.0 g of 65% sodium hydride, which was held at 60°C was added with stirring 5.0 g of ethyl 2-(4-acetyl-1-piperazinyl)-8-(2-chloroethyl)-5,8-dihydro-5oxopyrido[2,3-d]pyrimidine-6-carboxylate. The resulting mixture was heated to reflux for 2 hours and at the end of the period 200 ml of water was added. The mixture was refluxed for an additional 30 minutes. The ethanol was distilled off under reduced pressure and the resulting residue was acidified with concentrated hydrochloric acid to pH 1.0. The resulting precipitate was collected and recrystallized from water to yield 2.8 g of the product, m.p 298° - 301°C with decomposition.

reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | ethyl 2-(4-acetyl-1-piperazinyl)-8-(2-chloroethyl)-5,8-dihydro-5oxopyrido[2,3-d]pyrimidine-6-carboxylate | 5.0 g | C(C)(=O)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CCCl | C18H22ClN5O4
solvent | water | 200 ml | O | H2O
product | 5,8-Dihydro-2-(1-piperazinyl)-8-vinyl-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid hydrochloride | 2.8 g | Cl.N1(CCNCC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)C=C | InChI=1S/C14H15N5O3.ClH/c1-2-18-8-10(13(21)22)11(20)9-7-16-14(17-12(9)18)19-5-3-15-4-6-19;/h2,7-8,15H,1,3-6H2,(H,21,22);1H
